US07223769B2
In 5 ml of tetrahydrofuran was suspended 0.14 g of sodium hydride (60% in oil), to which 0.5 ml of a solution containing 0.22 g of 2-butyn-1-ol in tetrahydrofuran was added dropwise at room temperature, followed by stirring for 10 minutes. To this was added dropwise 0.5 ml of a solution containing 0.62 g of 4-chloro-6-(3-chloro-2,2-dimethylpropyloxy)pyrimidine in tetrahydrofuran at 0° C., followed by stirring at the same temperature for 4 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.62 g of 4-(2-butynyloxy)-6-(3-chloro-2,2-dimethylpropyloxy)pyrimidine (the present compound (10)).

reactant | sodium hydride | 0.14 g | [H-].[Na+]
reactant | 2-butyn-1-ol | 0.22 g | C(C#CC)O | C4H6O
reactant | 4-chloro-6-(3-chloro-2,2-dimethylpropyloxy)pyrimidine | 0.62 g | ClC1=NC=NC(=C1)OCC(CCl)(C)C | C9H12Cl2N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-6-(3-chloro-2,2-dimethylpropyloxy)pyrimidine | 0.62 g | C(C#CC)OC1=NC=NC(=C1)OCC(CCl)(C)C | C13H17ClN2O2
